US07411072B2
Propane-1-sulfonic acid [3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide
Following procedures essentially as described in Example 90, 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine (50 mg, 0.168 mmol) and 1-propanesulfonyl chloride (144 mg, 1.01 mmol) affords 34 mg (50%) of the title compound as a white foam. MS (ES) 426 M+Na), 402 (M−H); HPLC shows 99% purity.

reactant | 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | 0.168 mmol, 50 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)N | C22H19N
reactant | 1-propanesulfonyl chloride | 1.01 mmol, 144 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | Propane-1-sulfonic acid [3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide | 34 mg, 50% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)CCC | C25H25NO2S
